US07094801B2
4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-2-oxo-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 4-methoxy-2-(2-morpholin-4-yl-2-oxo-ethoxy)-5-thiophen-2-yl-benzaldehyde (Ex-72A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Orange solid, mp 231–233° C., 70% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.28–8.35 (m, 3H), 8.21 (s, 1H), 8.07–8.11 (m, 3H), 7.66 (d, 1H, J=3.3 Hz), 7.52 (d, 1H, J=5.1 Hz), 7.13 (dd, 1H, J=5.1, 3.3 Hz), 6.87 (s, 1H), 5.13 (s, 2H), 4.00 (s, 3H), 3.65 (brm, 4H), 3.54–3.55 (m, 4H). MS (EI) m/z=507 ([M]+, 100%). Anal. Calcd. for C27H25NO7S.½EtOH: C, 63.55; H, 5.61; N, 2.60; S, 5.95. Found: C, 63.13; H, 5.55; N, 2.53; S, 5.84.

reactant | 4-methoxy-2-(2-morpholin-4-yl-2-oxo-ethoxy)-5-thiophen-2-yl-benzaldehyde | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCC(=O)N1CCOCC1 | C18H19NO5S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-2-oxo-ethoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid | 70% yield | COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OCC(=O)N1CCOCC1 | C27H25NO7S
